US03992535
N-(3-Fluorophenyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 1 from 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide and 3-fluoroaniline. Yield: 89% of theory; m.p. 278°-279° C (decomp.; from xylene).

reactant | 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 3-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-(3-Fluorophenyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | Yield: 89% | FC=1C=C(C=CC1)NC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C20H15FN2O4S
